### PR TITLE
[Merged by Bors] - feat(NumberTheory/Height/Basic): add bounds for sums

### PR DESCRIPTION
**Pull request by MichaelStollBayreuth**
The main purpose of this PR (no. 3 in the series on heights) is to state and prove bounds for the height of `x + y` and for the height of a finite sum of field elements.

---

This includes `positivity` extensions for multiplicative and logarithmic heights (split off into a separate PR) and some API additions (split off into another separate PR).

- [x] depends on: #34533 (API additions for `Multiset.prod_map` and `finprod`)
- [x] depends on: #34534 (`positivity` extensions)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/BigOperators/Finprod.lean [hunk 1]
```diff
@@ -559,6 +560,30 @@ alias finsum_pos' := finsum_pos
 @[to_additive existing finsum_pos', deprecated (since := "2026-01-03")]
 alias one_lt_finprod' := one_lt_finprod
 
+/-- Monotonicity of `finprod`. See `finprod_le_finprod` for a variant where
+`M` is a `CommMonoidWithZero`. -/
+@[to_additive /-- Monotonicity of `finsum.` -/]
+lemma finprod_le_finprod' [PartialOrder M] [MulLeftMono M] (hf : f.mulSupport.Finite)
```
Comment (AntoineChambert-Loir) [inline Mathlib/Algebra/BigOperators/Finprod.lean:565]: shouldn't it be called `finprod_mono`?

Comment (MichaelStollBayreuth) [reply Mathlib/Algebra/BigOperators/Finprod.lean:565]: It is parallel to [Finset.prod_le_prod](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Order/BigOperators/Ring/Finset.html#Finset.prod_le_prod) and [Finset.prod_le_prod'](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Order/BigOperators/Group/Finset.html#Finset.prod_le_prod'). I agree that `..._mono` would also make sense, but thought that it would be good to be consistent.

Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/BigOperators/Finprod.lean:565]: Indeed!

File: Mathlib/NumberTheory/Height/Basic.lean [hunk 2]
```diff
@@ -468,3 +469,110 @@ lemma logHeight₁_zpow (x : K) (n : ℤ) : logHeight₁ (x ^ n) = n.natAbs * lo
...
+
+We prove the general case (finite sums of arbitrary length) first and deduce the result
+for sums of two elements from it.
+-/
+
+namespace Height
+
+variable {K : Type*} [Field K]
+
+private lemma le_prod_max_one {ι : Type*} {s : Finset ι} {i : ι} (hi : i ∈ s) (f : ι → ℝ) :
```
Comment (jcommelin) [inline Mathlib/NumberTheory/Height/Basic.lean]: I think this lemma can move to a file about the reals? Can it be generalized to products in linearly ordered rings?

File: Mathlib/NumberTheory/Height/Basic.lean [hunk 3]
```diff
@@ -468,3 +469,110 @@ lemma logHeight₁_zpow (x : K) (n : ℤ) : logHeight₁ (x ^ n) = n.natAbs * lo
...
+  rcases lt_or_ge (f i) 0 with hf | hf
+  · exact (hf.trans_le (by positivity)).le
+  have : f i = ∏ j ∈ s, if i = j then f i else 1 := by
+    rw [Finset.prod_eq_single_of_mem i hi fun _ _ _ ↦ by grind]
+    simp
+  exact this ▸ Finset.prod_le_prod (fun _ _ ↦ by grind) fun _ _ ↦ by grind
+
+open Finset in
+-- The "local" version of the height bound for arbitrary sums for archimedean `v`.
+private lemma max_abv_sum_one_le (v : AbsoluteValue K ℝ) {ι : Type*} {s : Finset ι}
```
Comment (jcommelin) [inline Mathlib/NumberTheory/Height/Basic.lean]: Please move this to a file on abs values.

File: Mathlib/NumberTheory/Height/Basic.lean [hunk 4]
```diff
@@ -468,3 +469,110 @@ lemma logHeight₁_zpow (x : K) (n : ℤ) : logHeight₁ (x ^ n) = n.natAbs * lo
...
+    grw [v.sum_le s x]
+    gcongr with i hi
+    exact le_prod_max_one hi fun i ↦ v (x i)
+  · nth_rewrite 1 [← mul_one 1]
+    gcongr
+    · simp [hs]
+    · exact s.one_le_prod fun _ ↦ le_max_right ..
+
+-- The "local" version of the height bound for arbitrary sums for nonarchimedean `v`.
+private lemma max_abv_sum_one_le_of_nonarch {v : AbsoluteValue K ℝ} (hv : IsNonarchimedean v)
```
Comment (jcommelin) [inline Mathlib/NumberTheory/Height/Basic.lean]: Idem dito

**Review by jcommelin — COMMENTED** [review]
I would move the private lemmas to other files, and make them non-private.

File: Mathlib/NumberTheory/Height/Basic.lean (hunk 2 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/Height/Basic.lean]: I've generalized it (to `[CommMonoidWithZero M] [LinearOrder M] [ZeroLEOneClass M] [PosMulMono M]`) and moved it to Mathlib/Algebra/Order/BigOperators/Ring/Finset .

File: Mathlib/NumberTheory/Height/Basic.lean (hunk 3 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/Height/Basic.lean]: I've generalized and un-`private`ized these two lemmas, but kept them in place:
* the statements (using `max (v _) 1`) are fairly specific to the heights setting;
* there seems to be no good existing home file for these (`#find_home!` returns `NumberTheory.Height.Basic` for both [after moving the lemma they depend on], and `#min_imports` gives two or three necessary imports).

But I am open to further suggestions.

File: Mathlib/NumberTheory/Height/Basic.lean [hunk 5]
```diff
@@ -468,3 +469,107 @@ lemma logHeight₁_zpow (x : K) (n : ℤ) : logHeight₁ (x ^ n) = n.natAbs * lo
...
+
+/-- The multiplicative height of `x + y` is at most `2 ^ totalWeight K`
+times the product of the multiplicative heights of `x` and `y`. -/
+lemma mulHeight₁_add_le (x y : K) :
+    mulHeight₁ (x + y) ≤ 2 ^ totalWeight K * mulHeight₁ x * mulHeight₁ y := by
+  rw [show x + y = Finset.univ.sum ![x, y] by simp, mul_assoc]
+  grw [mulHeight₁_sum_le Finset.univ_nonempty ![x, y]]
+  simp
+
+/-- The logarithmic height of `x + y` is at most `totalWeight K * log 2`
```
Comment (AntoineChambert-Loir) [inline Mathlib/NumberTheory/Height/Basic.lean:569]: It is probably worth adding the similar result for subtraction, and or for linear combinations.

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/Height/Basic.lean:569]: Thanks for the suggestion! I think subtraction makes sense and will add it. I'm less convinced regarding linear combinations, i.e., sums of products, which can easily be dealt with by combining the bound for the sum with the bound for products (which I'll add in one of the next PRs; I don't want to overload this one too much).

**Comment by MichaelStollBayreuth** [comment]
While continuing my work on properties of heights (see [Heights](https://github.com/MichaelStollBayreuth/Heights)), I settled on a less verbose way of structuring the proofs (first massage the rhs so that it has the form (arch. contribution)*(nonarch. contribution), them use `gcongr`). I have now refactored the proof of `mulHeight₁_sum_le` in the same way (but the proof is essentially the same under the hood).

File: Mathlib/NumberTheory/Height/Basic.lean (hunk 5 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/Height/Basic.lean:569]: PS: In a forthcoming PR, there will be a bound for the height of the image under a linear map (this is for tuples, not field elements).

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
